US03933890
To a stirred solution of 1-acetoxy-2-(3-acetoxyoctyl)cyclopent-1-ene (59.2 g.)[prepared as described in (e) above] in dry carbon tetrachloride (350 ml.) was added dropwise, during 30 minutes, a solution of bromine (32 g.) in dry carbon tetrachloride (100 ml.) at -10° to -5°C. The solution was stirred for a further 20 minutes without cooling. Triethylamine (22.2 g.) was then added and the resulting mixture stirred and refluxed for 90 minutes. The mixture was filtered, and the filtrate washed with aqueous 2N sodium carbonate and with water. After drying over magnesium sulphate and evaporation of the solvent in vacuo, the residue was distilled, in the presence of a few crystals of potassium acetate, at 132°-168°C./0.25 mm.Hg, to give crude 2-(3-acetoxyoctyl)cyclopent-2-enone. This was redistilled, with potassium acetate, at 116°-135°C./0.15 mm.Hg to give 2-(3-acetoxyoctyl)cyclopent-2-enone (28.7 g.), nD28 = 1.470.

reactant | 1-acetoxy-2-(3-acetoxyoctyl)cyclopent-1-ene | C(C)(=O)OC1=C(CCC1)CCC(CCCCC)OC(C)=O | C17H28O4
reactant | bromine | 32 g | BrBr | Br2
reactant | Triethylamine | 22.2 g | C(C)N(CC)CC | C6H15N
solvent | carbon tetrachloride | 350 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(3-acetoxyoctyl)cyclopent-2-enone | 28.7 g | C(C)(=O)OC(CCC=1C(CCC1)=O)CCCCC | C15H24O3
